US05834506
3-[2-tert-Butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenylsulfanyl]-4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one
The title compound was synthesized using General Method 9 using 0.07 g (2 mmol) of 4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one (prepared in Example PP), 1.00 g (2 mmol) of toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl} ester (prepared in Example PPP), 1.06 g (8 mmol) K2CO3, and DMF (5 mL). The solid which was obtained was then dissolved in 20 mL MeOH and 2 mL of 1N HCl. After 15 minutes the reaction was concentrated and the residue partitioned between EtOAc and H2O; the organic layer was separated, dried (Na2SO4) and concentrated. Trituration with Et2O yielded the title compound, m.p. 106°-107° C. 1H NMR (DMSO-d6) δ 1.49 (s, 9 H), 1.75 (s, 3 H), 2.0 (t, 4 H), 2.5 (t, 4 H), 3.4 (dd, 2 H), 3.7 (bs, 2 H), 3.95 (t, 2 H), 4.8 (br s, 1 H), 6.66 (d, 4 H), 6.7 (s, 1 H), 6.8 (s, 1 H), 6.98 (d, 4 H), 9.17 (s, 2 H).

reactant | 4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | 2 mmol, 0.07 g | OC1=CC(OC(C1)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C21H22O5
reactant | toluene-4-thiosulfonic acid S-{2-tert-butyl-4-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-methyl-phenyl} ester | 2 mmol, 1.00 g | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO[Si](C)(C)C(C)(C)C)C)SS(=O)(=O)C1=CC=C(C=C1)C | C26H40O4S2Si
reactant | K2CO3 | 8 mmol, 1.06 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 20 mL | CO | CH4O
solvent | HCl | 1N, 2 mL | Cl | ClH
product | 3-[2-tert-Butyl-4-(2-hydroxy-ethoxy)-5-methyl-phenylsulfanyl]-4-hydroxy-6,6-bis-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | C(C)(C)(C)C1=C(C=C(C(=C1)OCCO)C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)O)CCC1=CC=C(C=C1)O)=O | C34H40O7S
